US06320050B1
A mixture of 6-[3-cyclopentyl-2-(4-nitro-phenyl)-propionylamino]-nicotinic acid methyl ester (300 mg, 0.75 mmol) in ethyl acetate (30 mL) was treated with a catalytic amount of 10% palladium on activated carbon (30 mg). The resulting mixture was shaken at 25° C. under 60 psi of hydrogen gas in a Parr apparatus for 24 h. At this time, the catalyst was removed by filtration through a plug of celite. The filtrate was concentrated in vacuo to afford 6-[2-(4-amino-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester (262.8 mg, 94.7%) as a pale yellow glass: EI-HRMS m/e calcd for C21H25N3O3 (M+) 367.1895, found 367.1899.

reactant | 6-[3-cyclopentyl-2-(4-nitro-phenyl)-propionylamino]-nicotinic acid methyl ester | 0.75 mmol, 300 mg | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)[N+](=O)[O-])=O)=O | C21H23N3O5
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on activated carbon | 30 mg | [Pd] | Pd
product | 6-[2-(4-amino-phenyl)-3-cyclopentyl-propionylamino]-nicotinic acid methyl ester | 262.8 mg, 94.7% | COC(C1=CN=C(C=C1)NC(C(CC1CCCC1)C1=CC=C(C=C1)N)=O)=O | C21H25N3O3
